US09210927B2
Step 2. tert-Butyl-5-vinyl-1H-indole-1-carboxylate (BI17)
To a stirred solution of 5-vinyl-1H-indole (0.7 g, 4.89 mmol) in acetonitrile (20 ml) was added DMAP (59.65 mg, 0.489 mmol) and di-tert-butyl dicarbonate (1.38 g, 6.36 mmol), and the reaction was stirred at ambient temperature for 3 h. The reaction mixture was concentrated under reduced pressure to obtain a residue which was diluted with CH2Cl2 and washed with water and brine solution. The combined CH2Cl2 layer was dried over anhydrous Na2SO4 and concentrated under reduced pressure to afford the crude compound. The crude compound was purified by column chromatography (SiO2, 100-200 mesh; 2% ethyl acetate/petroleum ether) to afford the title compound as an off-white semi-solid (0.7 g, 59%): 1H NMR (400 MHz, CDCl3) δ 8.15 (d, J=8.0 Hz, 1H), 7.60 (s, 2H), 7.30 (d, J=8.4 Hz, 1H), 7.21 (m, 1H), 6.90 (dd, J=16.0, 10.8 Hz, 1H), 6.59 (s, 1H), 5.75 (d, J=10.5 Hz, 1H), 5.21 (d, J=10.5 Hz, 1H), 1.65 (s, 9H); ESIMS m/z 242.10 ([M−H]−); IR (thin film) 1630 cm−1.

reactant | 5-vinyl-1H-indole | 4.89 mmol, 0.7 g | C(=C)C=1C=C2C=CNC2=CC1 | C10H9N
reactant | di-tert-butyl dicarbonate | 6.36 mmol, 1.38 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
catalyst | DMAP | 0.489 mmol, 59.65 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | tert-Butyl-5-vinyl-1H-indole-1-carboxylate | 0.7 g, 59% | C(C)(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)C=C | C15H17NO2
